US07081456B2
To a partial solution of 4-(6-Fluoro-3-oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl]-benzoyl chloride (0.1 g, 0.3 mmol) in tetrahydrofurane (5 ml) under nitrogen was added a solution of 3-dimethylamino-propyl amine (0.03 g, 0.3 mmol) in tetrahydrofurane. The mixture was stirred at rt for 90 minutes. The solvent was removed under reduced pressure and the yellow solid was purified via FCC silica gel (gradient elution, MeOH:H2O, Fluka C18 reverse phase) to yield N-(3-Dimethylamino propyl)-4-(6-fluoro-3-oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl]-benzamide hydrochloride (70 mg, 53%) as a yellow solid.

reactant | 4-(6-Fluoro-3-oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl]-benzoyl chloride | 0.3 mmol, 0.1 g | FC1=CC=CC=2C=3C(=CNC12)C(N(N3)C3=CC=C(C(=O)Cl)C=C3)=O | C17H9ClFN3O2
reactant | 3-dimethylamino-propyl amine | 0.3 mmol, 0.03 g | CN(CCCN)C | C5H14N2
solvent | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
product | N-(3-Dimethylamino propyl)-4-(6-fluoro-3-oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl]-benzamide hydrochloride | 70 mg, 53% | Cl.CN(CCCNC(C1=CC=C(C=C1)N1N=C2C(=CNC=3C(=CC=CC23)F)C1=O)=O)C | InChI=1S/C22H22FN5O2.ClH/c1-27(2)12-4-11-24-21(29)14-7-9-15(10-8-14)28-22(30)17-13-25-20-16(19(17)26-28)5-3-6-18(20)23;/h3,5-10,13,25H,4,11-12H2,1-2H3,(H,24,29);1H
